US06887871B2
a) [3-Hydroxy-3-(2-pyrimidinyl)propyl]methylcarbamic acid, 1,1-dimethylethyl ester
To 2-(tributylstannyl)pyrimidine (690 mg, 1.87 mmol) dissolved in dry tetrahydrofuran (10 ml) cooled to −78° C. was added 2.4M n-butyl lithium in hexanes (0.8 ml, 1.87 mmol) under nitrogen. After stirring for a further 0.5 h, methyl(3-oxopropyl)carbamic acid, 1,1-dimethylethyl ester in dry tetrahydrofuran (10 ml) was added rapidly at −78° C. The reaction mixture was allowed to warm to ambient, treated with aqueous saturated ammonium chloride solution and extracted with ethyl acetate which was washed with brine and dried over anhydrous magnesium sulphate. The solvent was evaporated and the residue eluted down a flash chromatography column using initially 10% ethyl acetate/dichloromethane, then 10% methanol/dichloromethane to give 260 mg (43%) of the subtitle compound as a viscous yellow oil.

reactant | 2-(tributylstannyl)pyrimidine | 1.87 mmol, 690 mg | C(CCC)[Sn](C1=NC=CC=N1)(CCCC)CCCC
reactant | n-butyl lithium | 2.4M | C(CCC)[Li]
reactant | methyl(3-oxopropyl)carbamic acid, 1,1-dimethylethyl ester | CN(C(OC(C)(C)C)=O)CCC=O | C9H17NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | [3-Hydroxy-3-(2-pyrimidinyl)propyl]methylcarbamic acid, 1,1-dimethylethyl ester | 260 mg, 43% | OC(CCN(C(OC(C)(C)C)=O)C)C1=NC=CC=N1 | C13H21N3O3
